US08193236B2
(5-Methyl-benzofuran-3-yl)-acetic acid
4-chloromethyl-6-methyl-chromen-2-one (10.4 g, 50.0 mmol) is suspended in a 1.0 M aqueous NaOH solution (400 mL). The reaction mixture is heated under reflux for 30 min. until a clear solution is obtained. The reaction mixture is cooled in an ice bath and carefully neutralized with a 2 M aqueous HCl solution (200 mL). More of a 2 M aqueous HCl solution is added until a white precipitate formed (pH <5). The precipitate is collected by suction filtration, washed with a small amount of an 1 M aqueous HCl solution and dried in vacuo at 50° C. to afford the title compound as a white powder (9.94 g, 47 mmol, 94%). 1H NMR (400 MHz, CDCl3, 298 K): δ=7.63 (s, 1H), 7.39 (d, J=8.3 Hz, 1H), 7.36 (s, 1H), 7.14 (d, J=8.3 Hz, 1H), 3.76 (s, 2H), 2.48 (s, 3H).

reactant | 4-chloromethyl-6-methyl-chromen-2-one | 50.0 mmol, 10.4 g | ClCC1=CC(OC2=CC=C(C=C12)C)=O | C11H9ClO2
reactant | NaOH | 1.0 M, 400 mL | [OH-].[Na+]
solvent | HCl | 2 M, 200 mL | Cl | ClH
solvent | HCl | 2 M | Cl | ClH
product | (5-Methyl-benzofuran-3-yl)-acetic acid | 47 mmol, 9.94 g, 94% | CC=1C=CC2=C(C(=CO2)CC(=O)O)C1 | C11H10O3
